US05281593
iv) 7-Cyanomethoxy-4-(2-methoxycarbonylethyl)indole
A suspension of 7-benzyloxy-4-(2(E)-methoxycarbonylethenyl)indole (0.50 g, 1.63 mmol) in methanol (40 ml) and ethyl acetate (10 ml) was hydrogenated at 60 p.s.i. over 10% palladium on charcoal (0.10 g) for 3 hours. The catalyst was filtered off and the filtrate was evaporated. A stirred solution of the residue and bromoacetonitrile (0.12 ml, 1.72 mmol) in methyl ethyl ketone was heated under reflux with solid anhydrous potassium carbonate (0.48 g, 3.4 mmol) for 3.5 hours, poured onto ice-hydrochloric acid and extracted with dichloromethane. The extract was dried and evaporated and the residue was chromatographed on silica in ethyl acetate-hexane (1:3) to give a pale solid.

reactant | 7-benzyloxy-4-(2(E)-methoxycarbonylethenyl)indole | 1.63 mmol, 0.50 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CNC12)\C=C\C(=O)OC | C19H17NO3
reactant | bromoacetonitrile | 1.72 mmol, 0.12 ml | BrCC#N | C2H2BrN
reactant | potassium carbonate | 3.4 mmol, 0.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 40 ml | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.10 g | [Pd] | Pd
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 7-Cyanomethoxy-4-(2-methoxycarbonylethyl)indole | C(#N)COC=1C=CC(=C2C=CNC12)CCC(=O)OC | C14H14N2O3
